*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201HL-22N
* Inductance = 22nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.36GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201HL-22N_freq port1 port2 PARAMS: Cpar=0.061pF Ind=22nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.005
+ R2=0.75
+ C= {Cpar}
+ K1=0.00007352
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=74350.8652
.ends 0201HL-22N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201HL-24N
* Inductance = 24nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.36GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201HL-24N_freq port1 port2 PARAMS: Cpar=0.0562pF Ind=24nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.005
+ R2=0.93
+ C= {Cpar}
+ K1=0.00008352
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77604.5234
.ends 0201HL-24N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201HL-27N
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.95GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201HL-27N_freq port1 port2 PARAMS: Cpar=0.06pF Ind=27nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.005
+ R2=1.03
+ C= {Cpar}
+ K1=0.0001045
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=68432.4248
.ends 0201HL-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201HL-33N
* Inductance = 33nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.72GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201HL-33N_freq port1 port2 PARAMS: Cpar=0.0555pF Ind=33nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.005
+ R2=1.14
+ C= {Cpar}
+ K1=0.0001325
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=73545.9277
.ends 0201HL-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201HL-39N
* Inductance = 39nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201HL-39N_freq port1 port2 PARAMS: Cpar=0.054pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.005
+ R2=1.55
+ C= {Cpar}
+ K1=0.0001485
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=82543.2947
.ends 0201HL-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201HL-47N
* Inductance = 47nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201HL-47N_freq port1 port2 PARAMS: Cpar=0.0505pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.005
+ R2=1.7
+ C= {Cpar}
+ K1=0.0001565
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=103994.988
.ends 0201HL-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0201HL-51N
* Inductance = 51nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.46GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0201HL-51N_freq port1 port2 PARAMS: Cpar=0.0415pF Ind=51nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.005
+ R2=1.85
+ C= {Cpar}
+ K1=0.0001725
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=121070.486
.ends 0201HL-51N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
